US06355653B1
4-(3,4-Dichloro-phenyl)-pyridine-2,6-diamine
A mixture of 40.5 mg (0.21 mmol) 2,6-diamino-4-bromo-pyridine, 90.5 mg (0.47 mmol) 3,4-dichloro-phenyl-boronic acid, 7.8 mg (0.01 mmol) Dichloro(1,1′-bis(diphenylphosphino) ferrocene)palladium (II) dichloromethane adduct and 0.3 ml 2M Na2CO3 in 1 ml dimethoxyethane was heated to 80° C. for 17 h. The mixture was filtered over silica washed with MeOH/DCM and concentrated. The residue was taken up in 1 ml DMF and the totle compound was purified by reversed phase column chromatography eluting wit an acetonitrile/water gradient to yield 29 mg (52%), MS m/e (%): 254 M+ (100).

reactant | 2,6-diamino-4-bromo-pyridine | 0.21 mmol, 40.5 mg | NC1=NC(=CC(=C1)Br)N | C5H6BrN3
reactant | 3,4-dichloro-phenyl-boronic acid | 0.47 mmol, 90.5 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | Na2CO3 | 2M, 0.3 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dimethoxyethane | 1 ml | C(OC)COC | C4H10O2
catalyst | Dichloro(1,1′-bis(diphenylphosphino) ferrocene)palladium (II) dichloromethane adduct | 0.01 mmol, 7.8 mg | [CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(3,4-Dichloro-phenyl)-pyridine-2,6-diamine | ClC=1C=C(C=CC1Cl)C1=CC(=NC(=C1)N)N | C11H9Cl2N3
